US08648066B2
To a solution of methyl 4-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)benzoate (1.0 g, 2.0 mmol) in 1:1 methanol and THF (10 mL) was added drop wise 2N aqueous potassium hydroxide (8 mL). The reaction mixture was stirred at room temperature for 18 h and then refluxed for 90 min. The mixture was cooled by adding ice, and the pH adjusted to 6 with 2N aqueous hydrochloric acid. The precipitate was filtered, washed with water, azeotroped with toluene (20 mL), and dried to afford 4-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)benzoic acid (0.97 g, 100% yield).

reactant | methyl 4-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)benzoate | 2.0 mmol, 1.0 g | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C(=O)OC)C=C2 | C29H26FN3O3
reactant | methanol | CO | CH4O
reactant | potassium hydroxide | 2N, 8 mL | [OH-].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)benzoic acid | 0.97 g, 100% yield | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C(=O)O)C=C2 | C28H24FN3O3
